US08217032B2
7,9-Difluoro-5-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-5H-6-oxa-chrysen-2-ol hydrochloride salt
Dissolve 7,9-difluoro-5-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-5H-6-oxa-chrysen-2-ol (1.6 g, 3.3 mmol) in methylene chloride (20 mL). Add 2M HCl in ether (3.3 mL, 6.6 mmol) and concentrate in vacuo. Dissolve the residue in methylene chloride (5 mL) and add dropwise to vigorously stirred ether (30 mL). Filter the precipitate and dry in a 50° C. vacuum oven overnight to obtain 1.5 g (87%) of the title compound. Mass spectrum (ion spray): m/z=488.3 (M+H−HCl).

reactant | 7,9-difluoro-5-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-5H-6-oxa-chrysen-2-ol | 3.3 mmol, 1.6 g | FC1=C2OC(C3=C4C=CC(=CC4=CC=C3C2=CC(=C1)F)O)C1=CC=C(C=C1)OCCN1CCCCC1 | C30H27F2NO3
reactant | HCl | 2M | Cl | ClH
reactant | ether | 6.6 mmol, 3.3 mL | CCOCC | C4H10O
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 7,9-Difluoro-5-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-5H-6-oxa-chrysen-2-ol hydrochloride salt | 1.5 g, 87% | Cl.FC1=C2OC(C3=C4C=CC(=CC4=CC=C3C2=CC(=C1)F)O)C1=CC=C(C=C1)OCCN1CCCCC1 | InChI=1S/C30H27F2NO3.ClH/c31-21-17-26-25-10-6-20-16-22(34)7-11-24(20)28(25)29(36-30(26)27(32)18-21)19-4-8-23(9-5-19)35-15-14-33-12-2-1-3-13-33;/h4-11,16-18,29,34H,1-3,12-15H2;1H
